US09334290B2
A suspension of 2-amino-4-bromo-5-methylbenzoic acid (2.92 g, 12.7 mmol) in a mixture of 37% aqueous HCl (12.7 mL) and water (4.3 mL), cooled in a NaCl-ice bath, was treated slowly dropwise with a solution of sodium nitrite (0.963 g, 14.0 mmol) in water (4.5 mL). The resulting mixture was stirred for 45 min, then was treated slowly dropwise with a solution of tin(II) chloride dihydrate (8.59 g, 38.1 mmol) in 37% aqueous HCl (8.2 mL). The cooling bath was removed, and the mixture was stirred at room temperature for 60 min. The mixture was filtered, and the collected precipitate was washed with water and dried. The solid was triturated and sonicated in MeOH, and the mixture was concentrated. The residue was triturated and sonicated with DCM, and the precipitate was collected by filtration and washed with DCM to give 4-bromo-2-hydrazinyl-5-methylbenzoic acid hydrochloride as a white solid (2.17 g, 61% yield). Mass spectrum m/z 245, 247 (M+H)+.

reactant | 2-amino-4-bromo-5-methylbenzoic acid | 12.7 mmol, 2.92 g | NC1=C(C(=O)O)C=C(C(=C1)Br)C | C8H8BrNO2
reactant | sodium nitrite | 14.0 mmol, 0.963 g | N(=O)[O-].[Na+]
reactant | tin(II) chloride dihydrate | 38.1 mmol, 8.59 g | O.O.[Sn](Cl)Cl
solvent | HCl | 12.7 mL | Cl | ClH
solvent | water | 4.3 mL | O | H2O
solvent | water | 4.5 mL | O | H2O
solvent | HCl | 8.2 mL | Cl | ClH
product | 4-bromo-2-hydrazinyl-5-methylbenzoic acid hydrochloride | 2.17 g, 61% yield | Cl.BrC1=CC(=C(C(=O)O)C=C1C)NN | InChI=1S/C8H9BrN2O2.ClH/c1-4-2-5(8(12)13)7(11-10)3-6(4)9;/h2-3,11H,10H2,1H3,(H,12,13);1H
